US05142056
A. N-(Allyloxycarbonyl)-leucine Methyl Ester
A solution of leucine methyl ester (5 mmol) and triethylamine (10 mmol) in dichloromethane (50 ml) was cooled to 0° C. and treated dropwise with allyl chloroformate. After addition, the solution was stirred at ambient temperature for 2 h, diluted with dichloromethane, washed successively with 1NHCl and aqueous NaHCO3, dried over Na2SO4, and concentrated to give the desired compound.

reactant | leucine methyl ester | 5 mmol | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | allyl chloroformate | ClC(=O)OCC=C | C4H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(Allyloxycarbonyl)-leucine Methyl Ester | COC([C@@H](NC(=O)OCC=C)CC(C)C)=O | C11H19NO4
